US04707473
2.87 g (10 mmoles) of N-(α-phenylethyl)phenoxazine were dissolved, under nitrogen atmosphere, in 100 ml of dry tetrahydrofuran. The solution was cooled to -20° C. and 7.2 ml of a 1.67N solution of n-butyllithium (12 mmoles) in hexane was added thereto. The resulting mixture was stirred for 1 hour at -20° C. and then treated with 1.7 g (12 mmoles, 0.74 ml) of methyl iodide. Stirring was continued for an additional hour at the same temperature. The reaction solution was then poured into water (200 ml) and extracted with ethyl acetate (2×50 ml). The combined extracts were dried over sodium sulfate and the solvent removed under reduced pressure. The oily residue (2.96 g) was purified by thin layer chromatography (TLC) using hexane as solvent, to yield 4-methyl-N-(α-phenylethyl)phenoxazine, as an oil: ir: 2925; 2875; 1603 cm-1 ; nmr: (CDCl3) 1.80 ppm (d, 3H), 2.23 ppm (s, 3H), 7.17 ppm (c, 1H), 6.20-6.80 ppm (m, 7H), 7.60 ppm (m, 5H).

reactant | N-(α-phenylethyl)phenoxazine | 10 mmoles, 2.87 g | C1(=CC=CC=C1)C(C)N1C2=CC=CC=C2OC=2C=CC=CC12 | C20H17NO
reactant | n-butyllithium | 12 mmoles | C(CCC)[Li]
reactant | methyl iodide | 12 mmoles, 0.74 ml, 1.7 g | CI | CH3I
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-methyl-N-(α-phenylethyl)phenoxazine | CC1=CC=CC=2N(C3=CC=CC=C3OC12)C(C)C1=CC=CC=C1 | C21H19NO
